* C:\Users\USUARIO\Downloads\Diseño\ProyectoGitHub\Proyecto\ProyectoLTSPICE\SimulacionComparador\SistemaComparador.asc
XU1 N002 N004 V+ V- N003 V+ MAX4239
XU2 N003 N005 V+ V- Vref V+ MAX4239
R1 Vout N005 9k
R2 0 N005 1k
R3 N003 N004 9k
R4 0 N004 1k
R5 Vout Vref 50k
V1 V+ 0 3
R6 Vt N002 270
V2 0 V- 3
R§mA Vt N001 10m
R§uA Vt 0 10
XU5 P001 N007 Vsuperior Reset Vset NC_01 VCC 0 74HC74 VCC=3 SPEED=1.0 TRIPDT=1e-9
V4 N007 0 PULSE(0 3 0 1n 1n 1m 2m)
V5 N006 0 2.6
V6 N008 0 2m
XU4 Vref N006 V+ 0 Vsuperior 0 TLV3501
XU3 N008 Vref V+ 0 Vinferior 0 TLV3501
M1 N001 Vset 0 0 NMOS
M2 N001 Vset 0 0 NMOS
M3 N001 Vset 0 0 NMOS
XU7 Vinferior Vset Reset NAND_2
I3 0 Vt 30m
V3 P001 0 3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USUARIO\AppData\Local\LTspice\lib\cmp\standard.mos
.param V=3.3 I=20m
.param R={V/I}
.model NMOS NMOS (Vto=1.2 Kp=500 Rd=0.1 Rs=0.05 Rg=1 Vds=40 Ron=0.001)
.tran 10m
.lib 74HC.lib
.lib DigitalLogic.lib
.lib MAX4239.lib
.lib Sborka.lib
.backanno
.end
